US09228120B2
Additionally, for example when mixing 1,3-dioctyltetramethyldisilazane as the silicon compound B and trifluoromethanesulfonic anhydride as the acid B, the trifluoromethanesulfonic anhydride is rapidly reacted to form octyldimethylsilyl trifluoromethanesulfonate as the acid A.

reactant | 1,3-dioctyltetramethyldisilazane | C(CCCCCCC)[Si](N[Si](CCCCCCCC)(C)C)(C)C | C20H47NSi2
reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | octyldimethylsilyl trifluoromethanesulfonate | FC(S(=O)(=O)O[Si](C)(C)CCCCCCCC)(F)F | C11H23F3O3SSi
